US08138188B2
(4S)-4-Benzyl-3-[(2E)-3-(5-chloropyridin-2-yl)prop-2-enoyl]-1,3-oxazolidin-2-one
A solution of the acid from preparation 4 (2.44 g, 8.2 mmol) in tetrahydrofuran (15 mL) was cooled to −78° C. under nitrogen. Triethylamine (2.85 mL, 20 mmol) was added dropwise followed by trimethylacetyl chloride (1.11 mL, 9.0 mmol), controlling the rate of addition so that the temperature stayed below −65° C. The mixture was then stirred at −78° C. for 2 hours. nBuLi (2.5 M in hexanes, 4.26 mL, 10.7 mmol) was added dropwise to a solution of (4S)-4-benzyl-1,3-oxazolidin-2-one (1.74 g, 9.8 mmol) in tetrahydrofuran (15 mL) under nitrogen at −78° C., controlling the rate of addition so that the temperature stayed below −65° C. After stirring at −78° C. for 20 minutes the solution of oxazolidinone anion was added via cannula to the mixed anhydride solution at −78° C. The reaction mixture was stirred at −78° C. for 20 minutes then allowed to warm slowly to room temperature overnight. The reaction was quenched by the addition of saturated aqueous ammonium chloride solution (30 mL) and then concentrated in vacuo to remove the tetrahydrofuran. The solid precipitate was filtered and washed with diethyl ether to give the title compound (1.52 g, 54%) as a buff solid. The ether washings were evaporated to dryness, slurried in diethyl ether and filtered to give further product (0.42 g, 15%). 1H NMR (CDCl3, 400 MHz) δ 2.84 (1H, t), 3.37 (1H, d), 4.22 (2H, m), 4.78 (1H, m), 7.2-7.4 (5H, m), 7.51 (1H, d), 7.69 (1H, d), 7.86 (1H, d), 8.23 (1H, d), 8.62 (1H, s); LRMS (APCI+) 343 [MH+].

reactant | Triethylamine | 20 mmol, 2.85 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 9.0 mmol, 1.11 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | nBuLi | 10.7 mmol, 2.5 M, 4.26 mL | [Li]CCCC
reactant | (4S)-4-benzyl-1,3-oxazolidin-2-one | 9.8 mmol, 1.74 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | oxazolidinone | O1C(NCC1)=O | C3H5NO2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (4S)-4-Benzyl-3-[(2E)-3-(5-chloropyridin-2-yl)prop-2-enoyl]-1,3-oxazolidin-2-one | 1.52 g, 54% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(\C=C\C1=NC=C(C=C1)Cl)=O | C18H15ClN2O3
